US06914074B2
8-Chloro-3-(3-fluoro-4-hydroxyphenyl)-7-hydroxy-1-naphthonitrile
The title compound was prepared by reacting 8-chloro-3-(3-fluoro-4-methoxyphenyl)-7-hydroxy-1-naphthonitrile (0.042 g, 0.13 mmol) with pyridinium HCl (1.8 g) according to method D to yield 0.033 g (78%) of a tan solid. This material was further purified by preparative reverse phase HPLC to yield the title compound as a white solid: mp 246-252° C.; 1H NMR (DMSO-d6): δ 7.04-7.10 (1H, m), 7.44 91H, d, J=8.94 Hz), 7.56 (1H, dd, J=1.66 Hz, J=8.37 Hz), 7.76 (1H, dd, J=2.20 Hz, J=12.88 Hz), 7.99 (1H, d, J=9.09 Hz), 8.43 (1H, d, J=1.98 Hz), 8.52 (1H, d, J=1.94 Hz), 10.19 (1H, bs), 11.05 (1H, bs); MS (ESI) m/z312/314 (M−H)−.

reactant | 8-chloro-3-(3-fluoro-4-methoxyphenyl)-7-hydroxy-1-naphthonitrile | 0.13 mmol, 0.042 g | ClC=1C(=CC=C2C=C(C=C(C12)C#N)C1=CC(=C(C=C1)OC)F)O | C18H11ClFNO2
reactant | pyridinium HCl | 1.8 g | Cl.[NH+]1=CC=CC=C1
product | 8-Chloro-3-(3-fluoro-4-hydroxyphenyl)-7-hydroxy-1-naphthonitrile | ClC=1C(=CC=C2C=C(C=C(C12)C#N)C1=CC(=C(C=C1)O)F)O | C17H9ClFNO2
